US04426387
1-Benzoyl-3-[1-(naphth-2-ylmethyl)piperid-4-yl]thiourea
4-Amino-1-(naphth-2-ylmethyl)piperidine (1.0 g, 0.0042 m) and benzoylisothiocyanate (0.69 g, 0.0042 m ) in toluene (120 cm3) was stirred at room temperature for 6 hours. The solvent was evaporated and the gum dissolved in isopropyl alcohol and acidified with ethanolic HCl. The solvent was evaporated and the residue dissolved in ethyl acetate. The title compound crystallised and was filtered and dried as the monohydrochloride quarterhydrate salt, m.p. 212°-214° C.

reactant | 4-Amino-1-(naphth-2-ylmethyl)piperidine | 1.0 g | NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1 | C16H20N2
reactant | benzoylisothiocyanate | 0.69 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | toluene | 120 cm3 | C1(=CC=CC=C1)C | C7H8
product | 1-Benzoyl-3-[1-(naphth-2-ylmethyl)piperid-4-yl]thiourea | C(C1=CC=CC=C1)(=O)NC(=S)NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1 | C24H25N3OS
